US09403836B2
(e) (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one
2.0 M solution of thionyl chloride in CH2Cl2 (7.5 mL, 15.4 mmol) is added dropwise to a solution of 6-((1R,2R)-2-hydroxycyclopentylamino)-5-methyl-3-(phenylamino)-2H-pyrazolo[3,4-d]pyrimidin-4(5H)-one (3.5 g, 10.3 mmol) in CH2Cl2 (30 mL) at room temperature. After the completion of the addition, the reaction mixture is stirred at r.t. for 2 h. Solvent and excess SOCl2 are removed under reduced pressure. The residue is suspended in water (100 mL), and then carefully neutralized with 7% ammonium hydroxide (5 mL) to pH=6.5˜7. The mixture is extracted with CH2Cl2 and MeOH (10:1, v/v) five times. The combined organic phase is washed with water, dried over Na2SO4, and then evaporated under reduced vacuum to give 2.9 g of crude product. MS (ESI) m/z 323.2 [M+H]+.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 6-((1R,2R)-2-hydroxycyclopentylamino)-5-methyl-3-(phenylamino)-2H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | 10.3 mmol, 3.5 g | O[C@H]1[C@@H](CCC1)NC=1N(C(C=2C(N1)=NNC2NC2=CC=CC=C2)=O)C | C17H20N6O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15.4 mmol, 7.5 mL | C(Cl)Cl | CH2Cl2
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 2.9 g | CN1C=2N(C=3C(C1=O)=C(NN3)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C17H18N6O
